US04478927
37.3 g (0.1 mol) of 2-methyl-6-hexadecyloxybenzoxazole obtained by the reaction of 2-methyl-6-hydroxybenzoxazole with hexadecyl bromide was added to a mixture composed of 30 ml of hydrochloric acid and 300 ml of ethanol and the mixture was stirred at a temperature range between 40° C. and 50° C. for 1 hour. After cooling, the crystals deposited were collected by filtration and washed with ethanol to obtain 35.8 g of 2-acetylamino-5-hexadecyloxyphenol.

reactant | 2-methyl-6-hydroxybenzoxazole | CC=1OC2=C(N1)C=CC(=C2)O | C8H7NO2
reactant | hexadecyl bromide | C(CCCCCCCCCCCCCCC)Br | C16H33Br
product | 2-methyl-6-hexadecyloxybenzoxazole | 0.1 mol, 37.3 g | CC=1OC2=C(N1)C=CC(=C2)OCCCCCCCCCCCCCCCC | C24H39NO2
